US09079876B2
Step. F Preparation of Compound 2-(4-chloro-5-phenyl-1H-imidazol-1-yl)-5-(methylsulfonyl)pyridine (Compound 1)
5-(methylsulfonyl)-2-(5-phenyl-1H-imidazol-1-yl)pyridine (50 g), N-chlorosuccinimide (20 g) and azo-bis-isobutyronitrile (500 mg) were dissolved in 3 L tetrachloromethane to allow reflux overnight. The reaction mixture was cooled to room temperature, and the residual solvent was removed under reduced pressure. The crude product was purified by column chromatography to obtain the target compound (15 g). 1H-NMR (300 MHz, CDCl3): δ 3.12 (3H, s), 6.78 (1H, dd), 7.28 (2H, m), 7.44 (3H, m), 8.06 (1H, dd), 8.25 (1H, s), 9.03 (1H, dd); LC-MS m/z: 335 [M++1], purity (HPLC)>95%.

reactant | 5-(methylsulfonyl)-2-(5-phenyl-1H-imidazol-1-yl)pyridine | 50 g | CS(=O)(=O)C=1C=CC(=NC1)N1C=NC=C1C1=CC=CC=C1 | C15H13N3O2S
reactant | N-chlorosuccinimide | 20 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrachloromethane | 3 L | ClC(Cl)(Cl)Cl | CCl4
catalyst | azo-bis-isobutyronitrile | 500 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-(4-chloro-5-phenyl-1H-imidazol-1-yl)-5-(methylsulfonyl)pyridine | 15 g | ClC=1N=CN(C1C1=CC=CC=C1)C1=NC=C(C=C1)S(=O)(=O)C | C15H12ClN3O2S
